US07772226B2
(e) 7-(2-Butynyl)-2-methoxy-1-(2-phenylethyl)-8-(piperazin-1-yl)-1,7-dihydropurin-6-one hydrochloride
10 mg of sodium hydride (60%; oily) was added to a mixture consisting of 7 mg of t-butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-1-(2-phenylethyl)-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate and 0.5 ml of methanol. The mixture was stirred at room temperature for 20 minutes. Water was added to the reaction solution. The mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, and concentrated. 0.5 ml of trifluoroacetic acid was added to the residue. The mixture was stirred at room temperature for 30 minutes, and then concentrated. The residue was purified by reverse-phase column chromatography using 20 to 80% methanol/water (containing 0.1% concentrated hydrochloric acid) to give 4.3 mg of the title compound.

reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | t-butyl 4-[7-(2-butynyl)-2-chloro-6-oxo-1-(2-phenylethyl)-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 7 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)CCC1=CC=CC=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C26H31ClN6O3
reactant | methanol | 0.5 ml | CO | CH4O
solvent | Water | O | H2O
product | 7-(2-Butynyl)-2-methoxy-1-(2-phenylethyl)-8-(piperazin-1-yl)-1,7-dihydropurin-6-one hydrochloride | 4.3 mg | Cl.C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)CCC1=CC=CC=C1)OC)N1CCNCC1 | InChI=1S/C22H26N6O2.ClH/c1-3-4-13-27-18-19(24-21(27)26-15-11-23-12-16-26)25-22(30-2)28(20(18)29)14-10-17-8-6-5-7-9-17;/h5-9,23H,10-16H2,1-2H3;1H
